US08686048B2
Intermediate 13: 3-chloro-2′,5-difluorobiphenyl-4-amine
The title compound (0.392 g) was prepared from 4-bromo-2-chloro-6-fluoroaniline (0.5 g, 2.2 mmol) and 2-fluorophenylboronic acid (0.363 g, 2.6 mmol) as a pale-yellow liquid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.51 (td, J 1.7, 7.8, 1H), 7.38-7.32 (m, 1H), 7.28 (s, 2H), 7.27-7.22 (m, 2H), 5.62 (s, 2H).

reactant | 4-bromo-2-chloro-6-fluoroaniline | 2.2 mmol, 0.5 g | BrC1=CC(=C(N)C(=C1)F)Cl | C6H4BrClFN
reactant | 2-fluorophenylboronic acid | 2.6 mmol, 0.363 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
product | 3-chloro-2′,5-difluorobiphenyl-4-amine | 0.392 g | ClC=1C=C(C=C(C1N)F)C1=C(C=CC=C1)F | C12H8ClF2N
